US04476307
1-(3-Chlorophenyl)-3-(1-methyl-2-piperidylidene)-2(1H,3H)-indolone
By the procedure of Example B1, but using 1:1 hexane:ethyl acetate as chromatography eluant and pentane for crystallization, 1-(3-chlorophenyl-2-(1H,3H)-indolone (2.0 g, 8.2 mmoles) and N-methyl-2-piperidone (1.3 ml, 11.5 mmoles) were converted to title product, 180 mg (6.5%) m.p. 162°-165°.

reactant | 3-chlorophenyl-2-(1H,3H)-indolone | 8.2 mmoles, 2.0 g | ClC=1C=C(C=CC1)N1C(CC2=CC=CC=C12)=O | C14H10ClNO
reactant | N-methyl-2-piperidone | 11.5 mmoles, 1.3 ml | CN1C(CCCC1)=O | C6H11NO
solvent | hexane | CCCCCC | C6H14
product | 1-(3-Chlorophenyl)-3-(1-methyl-2-piperidylidene)-2(1H,3H)-indolone | ClC=1C=C(C=CC1)N1C(C(C2=CC=CC=C12)=C1N(CCCC1)C)=O | C20H19ClN2O
